US08530648B2
b) 3-(chloromethyl)-2-methyl-1-tosyl-1H-indole
To a stirred solution of (2-methyl-1-tosyl-1H-indol-3-yl)methanol (500 mg, 1.59 mmol) in chloroform (20 mL), thionyl chloride (0.23 mL, 3.18 mmol) was added dropwise at 0° C. and stirred for 10 min. Then the mixture was heated under reflux for 3.5 h. The reaction mixture was concentrated under reduced pressure. The residue was taken up in diethyl ether and evaporated to dryness under reduced pressure to yield the title compound (550 mg, quant.). The compound was directly used for the next step without further purification. [TLC Rf=0.58 (ethyl acetate/hexane 20:80)].

reactant | (2-methyl-1-tosyl-1H-indol-3-yl)methanol | 1.59 mmol, 500 mg | CC=1N(C2=CC=CC=C2C1CO)S(=O)(=O)C1=CC=C(C)C=C1 | C17H17NO3S
reactant | thionyl chloride | 3.18 mmol, 0.23 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(chloromethyl)-2-methyl-1-tosyl-1H-indole | 550 mg | ClCC1=C(N(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1)C | C17H16ClNO2S
